US07615557B2
A solution of 4-nitroindan-1-ol (0.385 g, 2.15 mmol) and p-toluenesulfonic acid (5.0 mg, 0.03 mmol) in toluene (30 ml) was stirred and heated to reflux for 16 hours. After cooled to ambient temperature, the mixture was washed with aqueous sodium bicarbonate solution. The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure. The obtained residue was purified by preparatory TLC (hexane:ethylacetate 3:1) to afford 7-nitro-1H-indene (0.289 g).

reactant | 4-nitroindan-1-ol | 2.15 mmol, 0.385 g | [N+](=O)([O-])C1=C2CCC(C2=CC=C1)O | C9H9NO3
reactant | p-toluenesulfonic acid | 0.03 mmol, 5.0 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 7-nitro-1H-indene | 0.289 g | [N+](=O)([O-])C=1C=CC=C2C=CCC12 | C9H7NO2
